US07351733B2
6-Bromo-N-(4,6-dimethylpyrimidin-2-yl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine hydrochloride was prepared from 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine (50 mg, 0.19 mmol) and 4,6-dimethyl-2-chloropyrimidine (134 mg, 0.94 mmol) in a similar manner as described in Example 22 to give 12 mg (16%) of a yellow solid. 1H-NMR (DMSO-d6): δ10.98 (s, 1H), 8.40 (brs, 2H), 7.59 (s, 1H), 7.26 (d, 1H), 7.16 (d, 1H), 6.77 (s, 1H), 5.52-5.48 (m, 1H), 2.68-2.61 (m, 2H), 2.41 (2 s, 6H), 2.15-2.06 (m, 1H), 2.04-1.96 (m, 1H), 1.91-1.76 (m, 2H); MS m/z (M+1) 371, 373; (M−1) 369, 371.

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine | 0.19 mmol, 50 mg | BrC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13BrN2
reactant | 4,6-dimethyl-2-chloropyrimidine | 0.94 mmol, 134 mg | CC1=NC(=NC(=C1)C)Cl | C6H7ClN2
product | 6-Bromo-N-(4,6-dimethylpyrimidin-2-yl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine hydrochloride | Cl.BrC=1C=C2C=3CCCC(C3NC2=CC1)NC1=NC(=CC(=N1)C)C | InChI=1S/C18H19BrN4.ClH/c1-10-8-11(2)21-18(20-10)23-16-5-3-4-13-14-9-12(19)6-7-15(14)22-17(13)16;/h6-9,16,22H,3-5H2,1-2H3,(H,20,21,23);1H
